US09238640B2
To a solution of 2-phenoxyethanol (4.81 g, 34.8 mmol) in DMF (20 mL) was added sodium hydride (60% suspension in mineral oil, 0.70 g, 17.4 mmol) in portions and the reaction mixture was stirred at room temperature for 1 hour. To this mixture was added 2-(2,6-dimethylpyridin-4-yl)-5,7-difluoro-3H-quinazolin-4-one (0.50 g, 1.74 mmol) and the reaction mixture was stirred at room temperature for 16 hours. Water (1 mL) was added, neutralized to pH approximately 6-7 with acetic acid, concentrated, dissolved in ethyl acetate, washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by column chromatography (eluted with 50% ethyl acetate in hexanes, then 5% methanol in DCM) to give 2-(2,6-dimethylpyridin-4-yl)-7-fluoro-5-(2-phenoxyethoxy)-3H-quinazolin-4-one as a light yellow solid. Yield: 0.59 g (83%).

reactant | 2-phenoxyethanol | 34.8 mmol, 4.81 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | sodium hydride | 17.4 mmol, 0.70 g | [H-].[Na+]
reactant | 2-(2,6-dimethylpyridin-4-yl)-5,7-difluoro-3H-quinazolin-4-one | 1.74 mmol, 0.50 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)F)F)C | C15H11F2N3O
reactant | Water | 1 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,6-dimethylpyridin-4-yl)-7-fluoro-5-(2-phenoxyethoxy)-3H-quinazolin-4-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCOC1=CC=CC=C1)F)C | C23H20FN3O3
